.title kicad schematic

.include NPN.lib
.include PNP.lib
q9 net-_q6-pad3_ net-_q6-pad3_ net-_c1-pad1_ Q2N2907A
r4 net-_q6-pad3_ net-_c2-pad2_ 24k
r2 net-_q6-pad3_ net-_q10-pad1_ 24k
* u1 net-_c1-pad1_ net-_r8-pad1_ net-_q1-pad3_ port
r5 net-_q13-pad3_ net-_q12-pad2_ 11.2k
q13 net-_c1-pad1_ net-_c1-pad1_ net-_q13-pad3_ Q2N2222
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
q8 net-_q4-pad2_ net-_q4-pad2_ net-_q3-pad2_ Q2N2222
q6 net-_c2-pad1_ net-_c2-pad2_ net-_q6-pad3_ Q2N2907A
q7 net-_q4-pad2_ net-_q10-pad1_ net-_q6-pad3_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 20p
r1 net-_c1-pad2_ net-_c2-pad1_ 10k
q2 net-_c1-pad1_ net-_c2-pad1_ net-_q1-pad2_ Q2N2222
q5 net-_q3-pad2_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
q1 net-_c1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_c2-pad1_ net-_q4-pad2_ net-_q3-pad2_ Q2N2222
q3 net-_q1-pad2_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
q11 net-_q10-pad3_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
r3 net-_q11-pad3_ net-_q1-pad3_ 720
q14 net-_q11-pad2_ net-_q11-pad2_ net-_q1-pad3_ Q2N2222
r7 net-_q10-pad2_ net-_q11-pad2_ 6.6k
r8 net-_r8-pad1_ net-_q10-pad2_ 30k
r6 net-_q12-pad2_ net-_q10-pad2_ 500
q12 net-_c2-pad2_ net-_q12-pad2_ net-_q10-pad3_ Q2N2222
.tran 1e-06 1e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
