.title kicad schematic

.include PNP.lib
.include NPN.lib
v3 net-_i1-pad1_ gnd 5v
r3 gnd out 1k
qp6 gnd net-_i3-pad2_ out Q2N2907A
r2 out net-_qn6-pad2_ 50
qn7 net-_i1-pad1_ net-_qn5-pad3_ net-_qn6-pad2_ Q2N2222
qp5 gnd net-_c1-pad2_ net-_i2-pad2_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 50p
qn2 net-_c1-pad2_ net-_qn1-pad1_ gnd Q2N2222
qn1 net-_qn1-pad1_ net-_qn1-pad1_ gnd Q2N2222
i4 out gnd 50u
qn4 net-_i3-pad2_ net-_qn3-pad3_ gnd Q2N2222
qn6 net-_i3-pad2_ net-_qn6-pad2_ out Q2N2222
qn3 net-_i1-pad1_ net-_i2-pad2_ net-_qn3-pad3_ Q2N2222
i2 net-_i1-pad1_ net-_i2-pad2_ 4u
r1 gnd net-_qn3-pad3_ 10k
i3 net-_i1-pad1_ net-_i3-pad2_ 100u
qn5 net-_i1-pad1_ net-_c1-pad1_ net-_qn5-pad3_ Q2N2222
v1 inv_in gnd 2.8v
v2 non_inv_in gnd 2.6v
qp4 gnd non_inv_in net-_qp3-pad2_ Q2N2907A
i1 net-_i1-pad1_ net-_i1-pad2_ 6u
qp1 gnd inv_in net-_qp1-pad3_ Q2N2907A
qp3 net-_c1-pad2_ net-_qp3-pad2_ net-_i1-pad2_ Q2N2907A
qp2 net-_qn1-pad1_ net-_qp1-pad3_ net-_i1-pad2_ Q2N2907A
.tran 1e-06 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
