.title kicad schematic

.include LM321.sub
.include PNP.lib
i1 in on_off 1ma
v2 on_off gnd 1.275v
x1 adj on_off in net-_qp1-pad2_ gnd LM321
qp1 vout net-_qp1-pad2_ in Q2N2907A
v1 in gnd 10v
c1 in gnd 470n
r2 gnd adj 3k
c2 vout gnd 22u
r3 vout gnd 1300
r1 adj vout 1k
.tran 10e-09 1e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
